* source I-COMPARADOR-01
M_M1         NDNEG IN- NDBIAS 0 CMOSN  
+ L=20u  
+ W=89u         
M_M2         NDPOS IN+ NDBIAS 0 CMOSN  
+ L=20u  
+ W=89u         
V_VDD         N64870 0 3.3
M_M3         NDNEG NDNEG N64870 N64870 CMOSP  
+ L=25u  
+ W=37u         
V_VBIAS         VBIAS 0 .52
M_M12         N73445 NDPOS N64870 N64870 CMOSP  
+ L=15u  
+ W=1097u         
V_VREF         IN+ 0 1
M_M4         NDPOS NDNEG N64870 N64870 CMOSP  
+ L=25u  
+ W=37u         
M_M13         N73445 VBIAS 0 0 CMOSN  
+ L=15u  
+ W=375u         
M_M5         NDBIAS VBIAS 0 0 CMOSN  
+ L=20u  
+ W=20u         
V_VIN         IN- 0 1
